US04008264
At a temperature and in the manner as described in Example 1, 39 g of potassium thiocyanate (0.4 mol) are introduced into 0.3 l of 98% hydrofluoric acid, 42 g of naphthalene (0.33 mol) are added and the mixture is agitated for 2 days at room temperature. After work-up, 54 g of crude α-thionaphthoic acid amide (0.32 mol) having a melting point of 119° C are obtained. A sample recrystallized from xylene has a melting point of 122° - 125° C. By alkaline splitting of the product, pure α-naphthonitrile may be obtained.

reactant | potassium thiocyanate | 0.4 mol, 39 g | [S-]C#N.[K+]
reactant | hydrofluoric acid | 0.3 l | F | FH
reactant | naphthalene | 0.33 mol, 42 g | C1=CC=CC2=CC=CC=C12 | C10H8
product | α-naphthonitrile | C1(=CC=CC2=CC=CC=C12)C#N | C11H7N
